US05455255
A mixture of the sodium salt of 1,2-benzisothiazol-3(2H)-one 1,1-dioxide (0.81 g, 3.95 mmol), pentafluoropyridine (0.68 g, 4.0 mmol) and 15-Crown-5 (0.88 g, 4.0 mmol) in acetonitrile (15 ml) was heated to reflux for 6 hours, cooled, and the solvent evaporated in vacuo. The oily residue thus obtained was suspended in water and stirred for 3-4 hours. The solid which percipitated was collected by filtration and dried to afford 1.01 g (77%) of 2-(2,3,5,6-tetrafluoro-4-pyridyl)-1,2-benzisothiazol-3(2H)-one 1,1-dioxide, m.p. 164°-165° C. after recrystallization from carbon tetrachloride.

reactant | sodium | [Na] | Na
reactant | 1,2-benzisothiazol-3(2H)-one 1,1-dioxide | 3.95 mmol, 0.81 g | S1(NC(C2=C1C=CC=C2)=O)(=O)=O | C7H5NO3S
reactant | pentafluoropyridine | 4.0 mmol, 0.68 g | FC1=C(C(=C(C(=N1)F)F)F)F | C5F5N
reactant | 15-Crown-5 | 4.0 mmol, 0.88 g | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-(2,3,5,6-tetrafluoro-4-pyridyl)-1,2-benzisothiazol-3(2H)-one 1,1-dioxide | 1.01 g, 77% | FC1=NC(=C(C(=C1F)N1S(C2=C(C1=O)C=CC=C2)(=O)=O)F)F | C12H4F4N2O3S
